US05234928
Ethyl 1-(2,4-dichlorophenyl)methyl-6-methoxy-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate
Into 10 ml of dioxane were dissolved 5.2 g of ethyl (2-((2,4-dichlorophenyl)methyl)amino-5-methoxybenzoyl)aminoacetate and 6.2 g of N,N'-carbonyldiimidazole, and the solution was heated to 140° to 150° C. After distilled off dioxane, the mixture was further heated for 15 minutes at 140° C. After cooling, ethanol was added and the crystalline substances were collected by filtration. They were recrystallized from ethanol to obtain 2,8 g of title compound. m.p. 167°-168° C.

reactant | ethyl (2-((2,4-dichlorophenyl)methyl)amino-5-methoxybenzoyl)aminoacetate | 5.2 g | ClC1=C(C=CC(=C1)Cl)CNC1=C(C(=O)NCC(=O)OCC)C=C(C=C1)OC | C19H20Cl2N2O4
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Ethyl 1-(2,4-dichlorophenyl)methyl-6-methoxy-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 2,8 g | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC(=CC=C12)OC)=O)CC(=O)OCC)=O | C20H18Cl2N2O5
